US04255152
2,6-di-sec-butylphenol (103 parts) is ethoxylated with ethylene oxide (29 parts) using sodium hydroxide (0.5 part) as catalyst at 150° C. in a method similar to that used in Example 12 to give 2-(2,6-di-sec-butylphenoxy)-ethanol (70 parts) b.p. 132°-136° C./0.9 mm.

reactant | 2,6-di-sec-butylphenol | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)O | C14H22O
reactant | ethylene oxide | C1CO1 | C2H4O
catalyst | sodium hydroxide | [OH-].[Na+]
product | 2-(2,6-di-sec-butylphenoxy)-ethanol | C(C)(CC)C1=C(OCCO)C(=CC=C1)C(C)CC | C16H26O2
